US04782050
D. 1-vinylbenzimidazole-2-carboxaldehyde
To a cold (-78° C.) solution of dry tetrahydrofuran (300 ml) containing 13.27 ml (94.6 mmoles) of diisopropylamine was added 37.86 ml of 2.5M solution of n-butyl lithium in hexane and the mixture stirred for 30 minutes. 1-Vinylbenzimidazole (13.6 g, 94.6 mmoles) in 50 ml of tetrahydrofuran was added and the mixture stirred for 30 minutes. Ethyl formate (8.4 ml, 104.1 mmoles) was then added and the reaction mixture stirred, allowing to warm to room temperature, overnight. Acetic acid (5.4 ml, 99.6 mmoles) was added and the reaction added to 500 ml of water and 300 ml of ethyl acetate. The organic layer was separated, the water layer extracted with additional ethyl acetate (2×100 ml), and the organic phases combined, dried over magnesium sulfate and concentrated to an oil, 17 g. The residue was purified by chromatographing on 700 g of silica gel using ethyl acetate-chloroform (1:9; v:v) as the eluent to give 6.7 g of product as a light brown solid.

reactant | diisopropylamine | 94.6 mmoles, 13.27 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1-Vinylbenzimidazole | 94.6 mmoles, 13.6 g | C(=C)N1C=NC2=C1C=CC=C2 | C9H8N2
reactant | Ethyl formate | 104.1 mmoles, 8.4 ml | C(=O)OCC | C3H6O2
reactant | Acetic acid | 99.6 mmoles, 5.4 ml | C(C)(=O)O | C2H4O2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 500 ml | O | H2O
product | 1-vinylbenzimidazole-2-carboxaldehyde | 6.7 g | C(=C)N1C(=NC2=C1C=CC=C2)C=O | C10H8N2O
